US06518260B1
4.5. Methyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy) carbonyl]amino]ethyl]phosphinyl]methyl]-4-methyl-1-oxopentyl]-L-phenylalaninate
The process is performed according to the procedure described in 1.8., starting with 250 mg (0.58 mol) of 2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-4-methylpentanoic acid and 124.5 mg (0.58 mmol) of methyl phenylalaninate hydrochloride. 228 mg of product are recovered (yield=65%).

reactant | 2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy)carbonyl]amino]ethyl]phosphinyl]methyl]-4-methylpentanoic acid | 0.58 mol, 250 mg | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)O)CC(C)C | C23H30NO6P
reactant | methyl phenylalaninate hydrochloride | 0.58 mmol, 124.5 mg | Cl.N[C@@H](CC1=CC=CC=C1)C(=O)OC
product | Methyl N-[2-[[hydroxy[2-phenyl-1-[[(phenylmethoxy) carbonyl]amino]ethyl]phosphinyl]methyl]-4-methyl-1-oxopentyl]-L-phenylalaninate | yield=65% | OP(=O)(C(CC1=CC=CC=C1)NC(=O)OCC1=CC=CC=C1)CC(C(=O)N[C@@H](CC1=CC=CC=C1)C(=O)OC)CC(C)C | C33H41N2O7P
